US08207168B2
To a round-bottom flask was added 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (11.0 g, 50 mmol), 1-bromo-3-chloropropane (9.88 mL, 100 mmol), potassium carbonate (20.7 g, 150 mmol), and acetonitrile (100 mL). The reaction mixture was heated to reflux for 24 h. The reaction was cooled to room temperature and was filtered. The filtrate was concentrated to give crude 2-[4-(3-chloro-propoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane. This material was used for next step without purification.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 50 mmol, 11.0 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | 1-bromo-3-chloropropane | 100 mmol, 9.88 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-[4-(3-chloro-propoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | ClCCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H22BClO3
